US07772234B2
Step A: Preparation of 5-cyano-3,4-difluoro-2-(2-fluorophenylamino)-benzoic acid methyl ester:
A mixture of 5-bromo-3,4-difluoro-2-(2-fluorophenylamino)-benzoic acid methyl ester (1.00 equiv.), dppf (0.02 equiv.), Pd2dba3 (0.01 equiv.), and Zn(CN)2 (0.60 equiv.) in NMP is stirred at 120° C. in a sealed tube. After stirring for 20 hours, the reaction mixture is cooled to room temperature and quenched with a 4:1:4 (volume) mixture solution of saturated aqueous NH4Cl-conc NH4O-water. The mixture is extracted with EtOAc. The organic layer is washed with saturated aqueous NH4Cl/concentrated NH4OH/water, and brine. The organic layer is dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that is purified by flash column chromatography to afford the desired product.

reactant | 5-bromo-3,4-difluoro-2-(2-fluorophenylamino)-benzoic acid methyl ester | 1.00 equiv. | COC(C1=C(C(=C(C(=C1)Br)F)F)NC1=C(C=CC=C1)F)=O | C14H9BrF3NO2
reactant | NMP | CN1CCCC1=O | C5H9NO
catalyst | dppf | 0.02 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2dba3 | 0.01 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Zn(CN)2 | 0.60 equiv. | [C-]#N.[C-]#N.[Zn+2]
product | 5-cyano-3,4-difluoro-2-(2-fluorophenylamino)-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)C#N)F)F)NC1=C(C=CC=C1)F)=O | C15H9F3N2O2
